US04521413
A mixture of 2-methyl-3-mercapto-5-oxo-6-hydroxy-2,5-dihydro-1,2,4-triazine (15.91 g), 4-chloromethylpyridine hydrochloride (19.68 g) and sodium bicarbonate (33.6 g) in water (500 ml) was stirred for 2 hours at 45° C. The mixture was cooled to 10° C. and adjusted to pH 6.2 with 6N hydrochloric acid. The resulting precipitates were collected by filtration, washed with water and acetone, and dried to give 2-methyl-3-(4-pyridylmethylthio)-5-oxo-6-hydroxy-2,5-dihydro-1,2,4-triazine (17.2 g), mp. 219° to 222° C. (dec.).

reactant | 2-methyl-3-mercapto-5-oxo-6-hydroxy-2,5-dihydro-1,2,4-triazine | 15.91 g | CN1N=C(C(N=C1S)=O)O | C4H5N3O2S
reactant | 4-chloromethylpyridine hydrochloride | 19.68 g | Cl.ClCC1=CC=NC=C1
reactant | sodium bicarbonate | 33.6 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2-methyl-3-(4-pyridylmethylthio)-5-oxo-6-hydroxy-2,5-dihydro-1,2,4-triazine | 17.2 g | CN1N=C(C(N=C1SCC1=CC=NC=C1)=O)O | C10H10N4O2S
